* sample.spice -- SPICE subcircuit: Voltage regulator with current limit
* PEEKDOCS_TEST_MARKER
*
.subckt vreg_5v vin gnd vout
*
* Internal reference
Vref ref gnd 1.25
*
* Error amplifier
XU1 fb ref amp opamp_simple
*
* Pass transistor (PNP model)
Q1 vin amp vout QPASS
.model QPASS PNP(BF=100 IS=1E-14 VAF=100)
*
* Output voltage divider: Vout = Vref * (1 + R1/R2) = 5.0V
R1 vout fb 30K
R2 fb gnd 10K
*
* Output capacitor for stability
Cout vout gnd 10U IC=0
*
* Current sense resistor (0.5 ohm)
Rsense vin vcc_int 0.5
*
* Simple opamp model
.subckt opamp_simple inp inn out
Ein out 0 inp inn 10000
Rout out 0 1K
.ends opamp_simple
*
.ends vreg_5v
*
* Test circuit
Vsupply vdd 0 DC 12


Rload vout 0 50
*
.DC Vsupply 6 15 0.1
.PRINT DC V(vout)
.END
